US06403601B1
(f) N-[2-(3,4-Difluorophenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide
To a stirred cooled (0° C.) mixture of 3-(3,4-difluorophenyl)-N-methyl-4-amino-1-butanol (0.917 g, 4.26 mmol) in DCM (35 mL) and 1N NaOH (10 mL) was added dropwise a solution of 5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride (0.829 g, 4.26 mmol) in DCM (20 mL). The mixture was stirred at 0° C. for 2.5 h, additional H2O and DCM were added and the mixture was extracted with DCM (2×20 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. Purification by chromatography (0%, 50%, 100% EtOAc in Et2O) provided the title compound (1.25 g, 79%) as a solid. MS m/z 374 (M+H).

reactant | 3-(3,4-difluorophenyl)-N-methyl-4-amino-1-butanol | 4.26 mmol, 0.917 g | FC=1C=C(C=CC1F)C(CCO)CNC | C11H15F2NO
reactant | 5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | 4.26 mmol, 0.829 g | C1(=CC=CC=2CCCCC12)C(=O)Cl | C11H11ClO
reactant | H2O | O | H2O
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(3,4-Difluorophenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | 1.25 g, 79% | FC=1C=C(C=CC1F)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CCO | C22H25F2NO2
